US04283509
N-(2'-Hydroxyethyl)-3,4-dihydronaphthalene-1,2-dicarboximide
A solution of 70 g (0.35 mol) of 3,4-dihydronaphthalene-1,2-dicarboxylic acid anhydride [prepared according to Org. Synthesis, Col., Vol. 2, 194 (1943)] and 23.5 g (0.385 mol) of ethanolamine in 1.7 liters of glacial acetic acid is kept under reflux for 24 hours. The glacial acetic acid is then removed by distillation, the residue is dissolved in 2 liters of absolute ethanol, 50 g of an ion exchanger ("Dowex 50 W" from Fluka AG) are added and the suspension is kept under reflux for 24 hours. The ion exchanger is then filtered off, the ethanol is distilled off and the residue is recrystallised from diethyl ether/ethanol. This yields 61.8 g (73% of theory) of N-(2'-hydroxyethyl)-3,4-dihydronaphthalene-1,2-dicarboximide; melting point 120.5°-121° C.

reactant | 3,4-dihydronaphthalene-1,2-dicarboxylic acid anhydride | 0.35 mol, 70 g | C12=C(CCC3=CC=CC=C13)C(=O)OC2=O | C12H8O3
reactant | ethanolamine | 0.385 mol, 23.5 g | C(O)CN | C2H7NO
solvent | acetic acid | 1.7 liters | C(C)(=O)O | C2H4O2
product | N-(2'-Hydroxyethyl)-3,4-dihydronaphthalene-1,2-dicarboximide | OCCN1C(=O)C2=C(CCC3=CC=CC=C23)C1=O | C14H13NO3
